US08686005B2
To a suspension of 2-(4-Iodo-2-oxo-1,2-dihydro-pyridin-3-yl)-4-methyl-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione Hydrochloride and 2-(4-Chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-4-methyl-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione Hydrochloride (0.75 g, 1.45 mmol), (R)-3-amino-1-(2,4-dimethylphenoxy)-2-propanol (0.34 g, 1.73 mmol) in EtOH (20 mL) was added Et3N (0.61 mL, 4.35 mmol) and the resulting mixture was heated at reflux for overnight. The reaction mixture was evaporated in vacuo and the residue was purified by flash chromatography (10% (6% NH3/MeOH)/CHCl3) to afford 2-{[4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-4-methyl-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione (0.45 g, 57%) as a yellow solid.

reactant | 2-(4-Iodo-2-oxo-1,2-dihydro-pyridin-3-yl)-4-methyl-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione Hydrochloride | Cl.IC1=C(C(NC=C1)=O)C=1NC2=CC=3C(N(C(C3C(=C2N1)C)=O)C1CCN(CC1)C)=O
reactant | 2-(4-Chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-4-methyl-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione Hydrochloride | 1.45 mmol, 0.75 g | Cl.ClC1=C(C(NC=C1)=O)C=1NC2=CC=3C(N(C(C3C(=C2N1)C)=O)C1CCN(CC1)C)=O
reactant | (R)-3-amino-1-(2,4-dimethylphenoxy)-2-propanol | 1.73 mmol, 0.34 g | NC[C@H](COC1=C(C=C(C=C1)C)C)O | C11H17NO2
reactant | Et3N | 4.35 mmol, 0.61 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 20 mL | CCO | C2H6O
product | [4-[(R)-3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-4-methyl-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione | 0.45 g, 57% | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)N2C=NC3=C(C=4C(N(C(C4C=C23)=O)C2CCN(CC2)C)=O)C)O)C=CC(=C1)C | C32H36N6O5
